US04833146
3,7-Dimethyl-1-(5-methyl-4-hexenyl)-xanthine
9.0 g (0.05 mol) of 3,7-dimethylxanthine, 8.0 g (0.06 mol) of 1-chloro-5-methyl-4-hexene and 8.3 g (0.06 mol) of potassium carbonate are stirred in 200 ml of dimethylformamide at 110° C. for 22 hours. After the solvent has been removed in vacuo, 100 ml of 1N sodium hydroxide solution are added and the mixture is extracted thoroughly with methylene chloride. The extract is extracted again by shaking with dilute sodium hydroxide solution, washed with water until neutral, dried and evaporated under reduced pressure and the residue is recrystallized from diisopropyl ether.

reactant | 3,7-dimethylxanthine | 0.05 mol, 9.0 g | CN1C(NC(C=2N(C=NC12)C)=O)=O | C7H8N4O2
reactant | 1-chloro-5-methyl-4-hexene | 0.06 mol, 8.0 g | ClCCCC=C(C)C | C7H13Cl
reactant | potassium carbonate | 0.06 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3,7-Dimethyl-1-(5-methyl-4-hexenyl)-xanthine | CN1C(N(C(C=2N(C=NC12)C)=O)CCCC=C(C)C)=O | C14H20N4O2
